US05599984
Analogously, the following were prepared from 3,5-diacetylaniline and the corresponding dioyl dichlorides: N,N'-bis(3,5-diacetylphenyl) butanediamide, mp 293°-6° C.; N,N'-bis(3,5-diacetylphenyl)hexanediamide, mp 269°-70° C.; N,N'-bis(3,5-diacetylphenyl)heptanediamide, mp 200°-3° C.; N,N'-bis(3,5-diacetylphenyl)octanediamide, mp 183°-4° C.; N,N'-bis(3,5-diacetylphenyl)nonanediamide, mp 179°-80° C.; N,N'-bis(3,5-diacetylphenyl)decanediamide, mp 196°-9° C.; N,N'-bis(3,5-diacetylphenyl)dodecanediamide, mp 178°-9° C.; N,N'-bis(3,5-diacetylphenyl) (isophthalic acid diamide), mp 283°-4° C. Also analogously, N,N'-bis(3-acetylphenyl)pentanediamide, mp 174°-5° C. was prepared from 3-aminoacetophenone and glutaryl dichloride.

reactant | 3,5-diacetylaniline | C(C)(=O)C=1C=C(N)C=C(C1)C(C)=O | C10H11NO2
reactant | N,N'-bis(3,5-diacetylphenyl) butanediamide | C(C)(=O)C=1C=C(C=C(C1)C(C)=O)NC(CCC(=O)NC1=CC(=CC(=C1)C(C)=O)C(C)=O)=O | C24H24N2O6
reactant | N,N'-bis(3,5-diacetylphenyl)hexanediamide | C(C)(=O)C=1C=C(C=C(C1)C(C)=O)NC(CCCCC(=O)NC1=CC(=CC(=C1)C(C)=O)C(C)=O)=O | C26H28N2O6
reactant | N,N'-bis(3,5-diacetylphenyl)heptanediamide | C(C)(=O)C=1C=C(C=C(C1)C(C)=O)NC(CCCCCC(=O)NC1=CC(=CC(=C1)C(C)=O)C(C)=O)=O | C27H30N2O6
reactant | N,N'-bis(3,5-diacetylphenyl)octanediamide | C(C)(=O)C=1C=C(C=C(C1)C(C)=O)NC(CCCCCCC(=O)NC1=CC(=CC(=C1)C(C)=O)C(C)=O)=O | C28H32N2O6
reactant | N,N'-bis(3,5-diacetylphenyl)nonanediamide | C(C)(=O)C=1C=C(C=C(C1)C(C)=O)NC(CCCCCCCC(=O)NC1=CC(=CC(=C1)C(C)=O)C(C)=O)=O | C29H34N2O6
reactant | N,N'-bis(3,5-diacetylphenyl)decanediamide | C(C)(=O)C=1C=C(C=C(C1)C(C)=O)NC(CCCCCCCCC(=O)NC1=CC(=CC(=C1)C(C)=O)C(C)=O)=O | C30H36N2O6
reactant | N,N'-bis(3,5-diacetylphenyl)dodecanediamide | C(C)(=O)C=1C=C(C=C(C1)C(C)=O)NC(CCCCCCCCCCC(=O)NC1=CC(=CC(=C1)C(C)=O)C(C)=O)=O | C32H40N2O6
reactant | 3-aminoacetophenone | CC(=O)C1=CC(=CC=C1)N | C8H9NO
reactant | glutaryl dichloride | C(CCCC(=O)Cl)(=O)Cl | C5H6Cl2O2
product | N,N'-bis(3-acetylphenyl)pentanediamide | C(C)(=O)C=1C=C(C=CC1)NC(CCCC(=O)NC1=CC(=CC=C1)C(C)=O)=O | C21H22N2O4
